.SUBCKT SW_TIME A B
+ PARAMS: TON=10m TOFF=100 RON=1m ROFF=1Meg

* Fonte de controle baseada no tempo
VCTRL ctrl 0 PWL(
+ 0       0
+ {TON}   0
+ {TON+1n} 1
+ {TOFF}  1
+ {TOFF+1n} 0)

* Chave controlada por tensão
S1 A B ctrl 0 SWMOD

.model SWMOD SW(
+ RON={RON}
+ ROFF={ROFF}
+ VT=0.5
+ VH=0)

.ENDS SW_TIME