* ==========================================================
* EFT_BURST_BASE – IEC 61000-4-4 EFT Generator
* With integrated capacitive coupling (CDN simplified)
*
* Pins:
*   LINE   -> node to inject EFT (mains or DC line)
*   GND    -> local reference / earth
* ==========================================================

.subckt EFT_BURST_BASE LINE GND PARAMS:
+ VPEAK=1k        ; Peak EFT voltage (±)
+ FREQ=5k         ; Pulse repetition freq inside burst
+ TBURST=15m      ; Burst duration (IEC ≈ 15 ms)
+ TREP=300m       ; Burst repetition period
+ TRISE=5n        ; Rise time
+ TFALL=50n       ; Fall time
+ TPW=50n         ; Pulse width
+ ZSRC=50         ; Source impedance (IEC ≈ 50 ohm)
+ CCPL=100p       ; Capacitive coupling (IEC typical)
+ RDIS=1Meg       ; Discharge resistor
+ TDELAY=0        ; Delay before first burst

* ----------------------------------------------------------
* Derived parameters
* ----------------------------------------------------------
.param TPER = {1/FREQ}

* ----------------------------------------------------------
* Burst envelope (IEC ON/OFF window) – delayed
* ----------------------------------------------------------
V_ENV ENV GND PULSE(
+ 0 1
+ {TDELAY}
+ 1u 1u
+ {TBURST}
+ {TREP}
+ )

* ----------------------------------------------------------
* Fast EFT pulse generator – delayed
* ----------------------------------------------------------
V_PULSE PULSE_RAW GND PULSE(
+ 0 {VPEAK}
+ {TDELAY}
+ {TRISE} {TFALL}
+ {TPW}
+ {TPER}
+ )

* ----------------------------------------------------------
* Gate pulses with burst envelope
* ----------------------------------------------------------
B_EFT EFT_SRC GND V = { V(PULSE_RAW) * V(ENV) }

* ----------------------------------------------------------
* Source impedance (IEC requirement)
* ----------------------------------------------------------
R_SRC EFT_SRC EFT_INT {ZSRC}

* ----------------------------------------------------------
* Capacitive coupling network (embedded CDN)
* ----------------------------------------------------------
C_CPL EFT_INT LINE {CCPL}
R_DIS EFT_INT GND {RDIS}

.ends EFT_BURST_BASE


.subckt EFT_CLASS_RESIDENTIAL LINE GND
XGEN LINE GND EFT_BURST_BASE PARAMS:
+ VPEAK=1k
+ FREQ=5k
+ TDELAY={TDELAY}
.ends EFT_CLASS_RESIDENTIAL

.subckt EFT_CLASS_IND_LIGHT LINE GND
XGEN LINE GND EFT_BURST_BASE PARAMS:
+ VPEAK=2k
+ FREQ=5k
+ TDELAY={TDELAY}
.ends EFT_CLASS_IND_LIGHT

.subckt EFT_CLASS_IND_HEAVY LINE GND
XGEN LINE GND EFT_BURST_BASE PARAMS:
+ VPEAK=4k
+ FREQ=5k
+ TDELAY={TDELAY}
.ends EFT_CLASS_IND_HEAVY