* C:\Users\brsiluca\Documents\LTspice\Teste\MOC3083.asc
* Generated by LTspice 26.0.0 for Windows.
R1 LED NC_01 220
V1 CTRL 0 PULSE(0 5 0 1u 1u 40m 100m)
R2 AC_OUT 0 1000
V2 AC_IN 0 SINE(0 120 50)
X§X1 LED 0 AC_OUT AC_IN MOC3083_MODEL

* block symbol definitions
.subckt MOC3083_MODEL A K MT2 MT1
DLED A K DLED_CORE
G1 MT2 MT1 NC_01 NC_02 {IDRM}
F1 MT2 MT1 {IDRM}
.param VF_LED=1.3 IR_LED=100u IFT=5m IH_ON=500u IH_OFF=300u VINH=12 IDRM=10n IDRM_INH=2m RON=0.1
.model DLED_CORE D(Is={IR_LED} N=1.8 Rs=5 Vfwd={VF_LED})
.ends MOC3083_MODEL

.model D D
.lib C:\Users\brsiluca\AppData\Local\LTspice\lib\cmp\standard.dio
.lib C:\Users\brsiluca\Documents\GitHub\CanisTech_LTSpice\user.dio
.tran 0.1
.backanno
.end
