**********
* Copyright Intusoft 1991
* All Rights Reserved
**********
*SYM=DGMOS
.SUBCKT BF993 1      2     3     4
*Connections  Drain  Gate2 Gate1 Source
*Dual Gate Mosfet
MD1 5 3 4 4 BF993G1
MD2 1 2 5 4 BF993G2 W=65U
.MODEL BF993G1 NMOS (LEVEL=1 VTO=-1.0 KP=23M GAMMA=7.4U 
+ PHI=.75 LAMBDA=13.75M RS=2.5 IS=31.2F PB=.8 MJ=.46
+ CBD=9.66P CBS=11.5P CGSO=600P CGDO=500P CGBO=61.4N
.MODEL BF993G2 NMOS (LEVEL=1 VTO=-.9 KP=25M GAMMA=30.4U
+ PHI=.75 LAMBDA=23.75M RD=74.4 IS=31.2F PB=.8 MJ=.46
+ CBD=9.66P CBS=11.5P CGSO=600P CGDO=500P CGBO=61.4N
* Siemens
* N-Channel Depletion DG-MOSFET 
.ENDS
**********
*SYM=DGMOS
.SUBCKT BF980A 1      2     3     4
*Connections   Drain  Gate2 Gate1 Source
*Dual Gate Mosfet
MD1 5 3 4 4 BF980AA
MD2 1 2 5 4 BF980AB W=50U
.MODEL BF980AA NMOS (LEVEL=1 VTO=-1.0 KP=17M GAMMA=4.34U
+ PHI=.75 LAMBDA=4.16M RS=3.2 IS=20.8F PB=.8 MJ=.46
+ CBD=2.89P CBS=3.47P CGSO=300P CGDO=250P CGBO=25.4N)
.MODEL BF980AB NMOS (LEVEL=1 VTO=-.9 KP=20M GAMMA=17.47U
+ PHI=.75 LAMBDA=14.16M RD=30 IS=20.8F PB=.8 MJ=.46
+ CBD=2.89P CBS=3.47P CGSO=300P CGDO=250P CGBO=25.4N)
* Philips
* N-Channel Depletion DG-MOSFET 
.ENDS
**********
*SYM=DGMOS
.SUBCKT MN201 1      2     3     4
*Connections  Drain  Gate2 Gate1 Source
*Dual Gate Mosfet
MD1 5 3 4 4 MN201-1
MD2 1 2 5 4 MN201-2 W=35U
.MODEL MN201-1 NMOS (LEVEL=1 VTO=-1.45 KP=11.8M GAMMA=3.26U
+ PHI=.75 LAMBDA=30M RD=1M RS=20.8 IS=25F PB=.8 MJ=.46
+ CBD=6.64P CBS=7.97P CGSO=168P CGDO=140P CGBO=32.6N)
.MODEL MN201-2 NMOS (LEVEL=1 VTO=-1.00 KP=12.5M GAMMA=27.26U
+ PHI=.75 LAMBDA=37M RD=15.3 RS=1M IS=30F PB=.8 MJ=.46
+ CBD=6.64P CBS=7.97P CGSO=168P CGDO=140P CGBO=32.6N)
* Motorola
* N-Channel Depletion DG-MOSFET 
.ENDS
*************